US06255285B1
To a solution of 492 mg (1.51 mmol) of N-[bis-(methyl-thio)methylene]-3-t-butylphenylalanine in 5 ml of DMF, 0.183 ml (1.66 mmol) of NMM and 0.159 ml (1.66 mmol) of ethyl chloroformate were added at −15° C. and the mixture was stirred for 30 minutes. The reaction mixture was stirred with bubbling of ammonia gas for another 30 minutes, left to stand at room temperature, diluted with ethyl acetate and washed first with water, then with saturated brine. The organic layer was dried with anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure; the resulting residue was dissolved in 3 ml of 1,4-dioxane and, after adding 1 ml of 2 N hydrochloric acid, the solution was stirred at room temperature for 3 days. Under cooling with ice, the solution was neutralized with saturated aqueous NaHCO3, extracted with chloroform, and washed first with water, then with saturated brine. The organic layer was dried with magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; chloroform:methanol=10:1) to give Phe(3-tBu)-NH2 in the amount of 210 mg (63%).

reactant | N-[bis-(methyl-thio)methylene]-3-t-butylphenylalanine | 1.51 mmol, 492 mg | CSC(=N[C@@H](CC1=CC(=CC=C1)C(C)(C)C)C(=O)O)SC | C16H23NO2S2
reactant | NMM | 1.66 mmol, 0.183 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 1.66 mmol, 0.159 ml | ClC(=O)OCC | C3H5ClO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Phe(3-tBu)-NH2 | N[C@@H](CC1=CC(=CC=C1)C(C)(C)C)C(=O)N | C13H20N2O
